US07498460B2
Methyl 1-[2-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-5-(ethoxycarbonyl)-benzoyl]-4-piperidinecarboxylate
75 mg of N-[(3-dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (EDC), 27 mg of 1-hydroxy-1H-benzotriazole hydrate (HOBT) and 40 mg of triethylamine, are successively added to a suspension of 100 mg of 2-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-5-(ethoxycarbonyl)benzoic acid and 39 mg of methyl piperidine-4-carboxylate hydrochloride in 30 ml of dichloromethane. Water is added to the reaction mixture after 15 hours at room temperature. After phase separation, the aqueous phase is extracted with ethyl acetate. The combined dichloromethane and ethyl acetate phases are washed with saturated brine and dried over anhydrous sodium sulphate. Filtration and concentration result in a crude product which is purified by suction filtration through silica gel with cyclohexane/ethyl acetate 1:1 as mobile phase. 120 mg of product are obtained.

reactant | 1-hydroxy-1H-benzotriazole hydrate | 27 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 40 mg | C(C)N(CC)CC | C6H15N
reactant | 2-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-5-(ethoxycarbonyl)benzoic acid | 100 mg | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CCCOC1=C(C(=O)O)C=C(C=C1)C(=O)OCC)C1=CC=CC=C1 | C32H30O6
reactant | methyl piperidine-4-carboxylate hydrochloride | 39 mg | Cl.N1CCC(CC1)C(=O)OC
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | Methyl 1-[2-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-5-(ethoxycarbonyl)-benzoyl]-4-piperidinecarboxylate | 120 mg | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CCCOC1=C(C(=O)N2CCC(CC2)C(=O)OC)C=C(C=C1)C(=O)OCC)C1=CC=CC=C1 | C39H41NO7
